US05929067
3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid N-(4-chloro-2-methyl-phenyl)-amide
A solution of 0.055 ml (0.393 mmol) of triethylamine and 38 mg (0.0786 mmol) of 3-[N'-(3,5-bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid in 0.5 ml of methylene chloride and a solution of 33.3 mg of 1-propanephosphonic acid anhydride in 0.4 ml of methylene chloride are added in succession to 10.3 mg (0.0943 mmol) of 4-chloro-2-methylaniline and the mixture is left to stand at room temperature overnight (>16 hours). The reaction mixture is then washed with 0.5 ml of a 1N aqueous potassium carbonate solution. The aqueous phase is extracted with a further 0.8 ml of methylene chloride. The combined organic phases are concentrated by evaporation in a vacuum centrifuge. The title compound is obtained in the form of a white foam. TLC: methylene chloride/acetone (7:3) Rf =0.48.

reactant | triethylamine | 0.393 mmol, 0.055 ml | C(C)N(CC)CC | C6H15N
reactant | 3-[N'-(3,5-bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid | 0.0786 mmol, 38 mg | FC(C=1C=C(C(=O)N(C)C(CC(=O)O)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C24H19F6NO3
reactant | 4-chloro-2-methylaniline | 0.0943 mmol, 10.3 mg | ClC1=CC(=C(N)C=C1)C | C7H8ClN
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.4 ml | C(Cl)Cl | CH2Cl2
product | 3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4-(2-naphthyl)-butanoic acid N-(4-chloro-2-methyl-phenyl)-amide | ClC1=CC(=C(C=C1)NC(CC(CC1=CC2=CC=CC=C2C=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O)C | C31H25ClF6N2O2
